US08669234B2
(1-{1-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-cyclopropylcarbamoyl}-2-methyl-propyl)-carbamic acid methyl ester (1.38 g, 3.2 mmol) in 1,4-dioxane (25 mL) was treated with bis(pinacolato)diboron (1.69 g, 6.7 mmol), Pd(PPh3)4 (150 mg, 0.13 mmol), and KOAc (810 mg, 8.2 mmol). The mixture was stirred in a sealed tube at 80° C. for 18 hours. The mixture was filtered through a fritted glass funnel and concentrated. The mixture was then suspended in dichloromethane (10 mL) and filtered and subjected to a 120 g SiO2 COMBIFLASH column (0-100% EtOAc-hexanes gradient) to afford [2-methyl-1-(1-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-cyclopropylcarbamoyl)-propyl]-carbamic acid methyl ester (1.24 g, 81%): MS (ESI) m/z 483 [M+H]+.

reactant | (1-{1-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-cyclopropylcarbamoyl}-2-methyl-propyl)-carbamic acid methyl ester | 3.2 mmol, 1.38 g | COC(NC(C(C)C)C(NC1(CC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O)=O | C19H23BrN4O3
reactant | bis(pinacolato)diboron | 6.7 mmol, 1.69 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 8.2 mmol, 810 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.13 mmol, 150 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [2-methyl-1-(1-{5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-cyclopropylcarbamoyl)-propyl]-carbamic acid methyl ester | 1.24 g, 81% | COC(NC(C(C)C)C(NC1(CC1)C=1NC(=CN1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)=O | C25H35BN4O5
